US04199586
Alternatively, 3-nitro-5-(4-pyridinyl)-2(1H)-pyridinone is prepared step-wise starting with 1,2-dihydro-2-oxo-5-(4-pyridinyl)-nicotinonitrile as follows: A mixture containing 197 g. of 1,2-dihydro-2-oxo-5-(4-pyridinyl)-nicotinonitrile, 600 ml. of concentrated sulfuric acid and 150 liters of water was refluxed for twenty-four hours, cooled and poured into 10 liters of a mixture of ice and water. The mixture was neutralized with ammonium hydroxide and the separated precipitate was collected, washed with a small amount of cold water and dried in vacuo at 80° C. to yield 148 g. of 5-(4-pyridinyl)-2(1H)-pyridinone, m.p. 258°-260° C. An 80 g. portion of 5-(4-pyridinyl)-2(1H)-pyridinone was added to 288 ml. of concentrated sulfuric acid and the mixture heated to 70° C. To this stirred solution kept at 70°-80° C. was added dropwise a mixture containing 102 ml. of 90% nitric acid and 29 ml. of concentrated sulfuric acid. The reaction mixture was heated at about 80° C. for three hours after addition of the mixture of acids. The reaction mixture was then cooled and poured into a mixture of ice and water with stirring. The precipitate was collected and dried. It was then slurried with water and neutralized with 10% aqueous potassium bicarbonate solution. The precipitate was collected, washed with water and dried in vacuo at 80° C. to yield 56 g. of 3-nitro-5-(4-pyridinyl)-2(1H)-pyridonone.

reactant | 1,2-dihydro-2-oxo-5-(4-pyridinyl)-nicotinonitrile | O=C1C(C#N)=CC(=CN1)C1=CC=NC=C1 | C11H7N3O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | 5-(4-pyridinyl)-2(1H)-pyridinone | N1=CC=C(C=C1)C=1C=CC(NC1)=O | C10H8N2O
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
solvent | water | 150 liters | O | H2O
product | 3-nitro-5-(4-pyridinyl)-2(1H)-pyridinone | [N+](=O)([O-])C=1C(NC=C(C1)C1=CC=NC=C1)=O | C10H7N3O3
